US07521446B2
1. cis-4-[(tert-Butoxy)carbonylamino]cyclohexane carboxylic acid
cis-4-Aminocyclohexyl carboxylic acid (2.0 g, 13.96 mmol) was dissolved in 40 mL of 1,4-dioxane. Two equivalents of di-tert-butyl-dicarbonate (6.094 g, 27.92 mmol) were added followed by 3 equivalents of sodium bicarbonate (4.06 g, 41.88 mmol) dissolved in 40 mL of water. The reaction mixture was stirred at room temperature for about 12 hours. The completion of the reaction was monitored by LC-MS. Saturated aqueous KHSO4 was added dropwise, until gas evolution stopped. The solvent was then removed under reduced pressure and the crude product was extracted in ethyl acetate. The combined organic extracts were washed with aqueous saturated KHSO4 and dried over Na2SO4. The solvent was removed under reduced pressure, yielding 2.6 g of product. Based on 1H NMR, the product was pure and used in subsequent steps without further purification. ES-MS (m/z) 244.

reactant | cis-4-Aminocyclohexyl carboxylic acid | 13.96 mmol, 2.0 g | N[C@H]1CC[C@H](CC1)C(=O)O | C7H13NO2
reactant | di-tert-butyl-dicarbonate | 27.92 mmol, 6.094 g, Two equivalents | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bicarbonate | 41.88 mmol, 4.06 g, 3 equivalents | C([O-])(O)=O.[Na+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | water | 40 mL | O | H2O
product | cis-4-[(tert-Butoxy)carbonylamino]cyclohexane carboxylic acid | 2.6 g | C(C)(C)(C)OC(=O)N[C@H]1CC[C@H](CC1)C(=O)O | C12H21NO4
